US05286728
0.5 g of 1-[4-(3-chloropropionylamino)benzoyl]-4-[2-(4-chlorophenyl)ethyl]-piperazine and 0.4 g of triethylamine are dissolved in 20 ml of methylene chloride, and the solution is boiled under reflux for 4 hours and then concentrated by evaporation, yielding 1-(4-acryloylaminobenzoyl)-4-[2-(4-chlorophenyl)ethyl]piperazine having a melting point of 163°-165°.

reactant | 1-[4-(3-chloropropionylamino)benzoyl]-4-[2-(4-chlorophenyl)ethyl]-piperazine | 0.5 g | ClCCC(=O)NC1=CC=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=C1 | C22H25Cl2N3O2
reactant | triethylamine | 0.4 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-acryloylaminobenzoyl)-4-[2-(4-chlorophenyl)ethyl]piperazine | C(C=C)(=O)NC1=CC=C(C(=O)N2CCN(CC2)CCC2=CC=C(C=C2)Cl)C=C1 | C22H24ClN3O2
